US07906517B2
Tert-butyl piperidine-4-ylmethyl-carbamate (2.00 g) is dissolved in tetrahydrofuran (10 ml), and thereto is added triethylamine (1.69 ml), followed by an addition dropwise of ethyl bromoacetate (1.24 mL) in water bath and the mixture is stirred at room temperature for 2 hours. To the reaction mixture is added a saturated brine, and the mixture is extracted with ethyl acetate. The organic layer is washed twice with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure, and to the resulting crystalline residue is added isopropylether and the mixture is filtered to give ethyl [4-(tert-butoxy-carbonylamino-methyl)-piperidin-1-yl]-acetate (1.87 g). MS (m/z): 301 [M+H]+

reactant | Tert-butyl piperidine-4-ylmethyl-carbamate | 2.00 g | N1CCC(CC1)CNC(OC(C)(C)C)=O | C11H22N2O2
reactant | triethylamine | 1.69 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl bromoacetate | 1.24 mL | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
product | ethyl [4-(tert-butoxy-carbonylamino-methyl)-piperidin-1-yl]-acetate | 1.87 g | C(C)(C)(C)OC(=O)NCC1CCN(CC1)CC(=O)OCC | C15H28N2O4
